US08536214B2
(S)-benzyl-5-(hydroxymethyl)-2,3-dihydro-1H-inden-2-ylcarbamate (7.13 mmol, 2.12 g) was dissolved in DCM (20 mL), thionyl chloride (14.26 mmol, 1.040 mL, 1.696 g) added and the resultant solution stirred at room temperature for 45 min. The sample was concentrated and azeotroped with dichloromethane (×4). Potassium carbonate (21.39 mmol, 2.96 g) was added followed by DMF (20 mL) and (3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol (7.13 mmol, 1.184 g) and the mixture heated to 60° C. for 1 h. The mixture was concentrated and partitioned between ethylacetate/water. The aqueous layer was twice extracted with ethylacetate and combined organics dried, filtered and concentrated to give a yellow oil which was purified on silica eluting with 0-1% MeOH/DCM to give (S)-benzyl-5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-ylcarbamate as a light coloured oil (2.67 g, 84%). 1H NMR (400 MHz, CDCl3) δ 1.83 (t, 1H) 2.79 (m, 2H) 3.27 (m, 2H) 4.51 (bs, 1H) 4.63 (d, 2H) 4.98 (bs, 1H) 5.08 (bs, 2H) 5.24 (s, 2H) 7.05-7.11 (m, 2H) 7.18 (m, 1H) 7.26-7.39 (m, 6H).

reactant | (S)-benzyl-5-(hydroxymethyl)-2,3-dihydro-1H-inden-2-ylcarbamate | 7.13 mmol, 2.12 g | C(C1=CC=CC=C1)OC(N[C@H]1CC2=CC=C(C=C2C1)CO)=O | C18H19NO3
reactant | thionyl chloride | 14.26 mmol, 1.040 mL, 1.696 g | S(=O)(Cl)Cl | Cl2OS
reactant | Potassium carbonate | 21.39 mmol, 2.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | (3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | 7.13 mmol, 1.184 g | FC(C1=NNC=C1CO)(F)F | C5H5F3N2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (S)-benzyl-5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-ylcarbamate | 2.67 g, 84% | C(C1=CC=CC=C1)OC(N[C@H]1CC2=CC=C(C=C2C1)CN1N=C(C(=C1)CO)C(F)(F)F)=O | C23H22F3N3O3
